US04166813
Bis{3-[N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-2-phenylcarbamoyloxypropyl}1,2-cyclohexanedicarboxylate (Compound No. 232)
A mixture of 2.4 g of bis{3-[N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-2-hydroxypropyl}1,2-cyclohexanedicarboxylate, obtained as described in Example 18, and 2.4 g of phenylisocyanate in 30 ml of benzene was refluxed, with stirring, for 3 hours. At the end of this time, the solvent was removed from the reaction mixture by evaporation under reduced pressure and the resulting residue was purified by column chromatography through silica gel eluted with a 20:1 by volume mixture of ethyl acetate and triethylamine. The desired compound was obtained in the form of a vitreous mass having an Rf value of 0.58 on thin layer chromatography on silica gel developed with a 5:1 by volume mixture of ethyl acetate and triethylamine.

reactant | bis{3-[N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-2-hydroxypropyl}1,2-cyclohexanedicarboxylate | 2.4 g | C(CCC)N(C1CC(NC(C1)(C)C)(C)C)CC(COC(=O)C1C(CCCC1)C(=O)OCC(CN(C1CC(NC(C1)(C)C)(C)C)CCCC)O)O | C40H76N4O6
reactant | phenylisocyanate | 2.4 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | Bis{3-[N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-2-phenylcarbamoyloxypropyl}1,2-cyclohexanedicarboxylate | C(CCC)N(C1CC(NC(C1)(C)C)(C)C)CC(COC(=O)C1C(CCCC1)C(=O)OCC(CN(C1CC(NC(C1)(C)C)(C)C)CCCC)OC(NC1=CC=CC=C1)=O)OC(NC1=CC=CC=C1)=O | C54H86N6O8
